datasets/10k_Mayr_OG.csv
SMILES Labelled
"COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1.C[S:11](C)=[CH:10][C:61](C1=CC=CC=C1)=[O:62]>>COC1=CC=[N+](C[C:21]([CH:20]([CH:10]([S+:11](C)C)[C:61](C2=CC=CC=C2)=[O:62])[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[C:22](C)[O-:23])C=C1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([O:61][P:10]([O:71]C2=CC=CC=C2)[O:81]C2=CC=CC=C2)C=C1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([P+:10]([O:61]C2=CC=CC=C2)([O:71]C2=CC=CC=C2)[O:81]C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:61]([CH-:10][C:81](C1=CC=CC=C1)=[O:82])=[O:62]>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]([C:61](C)=[O:62])[C:81](C2=CC=CC=C2)=[O:82])([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"C1=CC=C([S:32]([C:21](=[CH2:20])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.C[NH:10][NH:61]C>>C[NH+:10]([CH2:20][C-:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:41](C1=CC=CC=C1)(=[O:42])=[O:43])[NH:61]C 10=20;20,21=21"
"C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1.C[Zr:11]12345678([CH3:10])(C9C1C21C=CC=CC13C94)C1C5C62C=CC=CC27C18>>C1=CC=C([C:22]2=[CH:21][CH:20]([CH3:10])[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1.C[Zr+:11]12345678(C9C1C21C=CC=CC13C94)C1C5C62C=CC=CC27C18 10,11=10,20;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[N:12](C)[C:11](=[NH:10])[N:62](C)C>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([NH:10][C:11](=[N+:12](C)C)[N:62](C)C)([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C[C:62]1=[CH:61][N:10]=[CH:11][NH:12]1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5CC[CH:20]1C2C3C54>>C[C:62]1=[CH:61][N:10]([CH:20]2CCC3C4C5C2[Fe-3:21]345(C#[O+])(C#[O+])C#[O+])[CH:11]=[NH+:12]1 10,11=10,20;12=11,12;20,21=21"
"CC(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].CCCC[O:72][C:11](=[CH2:10])[O:12][Si:63](C)(C)C(C)(C)C>>CCCC[O:72][C:11]([CH2:10][CH:20]([CH:21]=[C:22](C(C)C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O+:12][Si:63](C)(C)C(C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23].C[N:10](C)[NH2:61]>>CC[O:33][C:22](=[C:21](C)[CH2:20][N+:10](C)(C)[NH2:61])[O-:23] 10=20;20,21=21,22;22,23=23"
"C[Si:72](C)(C)[O:12][C:11](=[CH2:10])[C:62]1=[C:63](F)[C:64](F)=[C:65](F)[C:84](F)=[C:83]1F.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[Si:72](C)(C)[O+:12]=[C:11]([CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)[C:62]1=[C:63](F)[C:64](F)=[C:65](F)[C:84](F)=[C:83]1F 10,11=10,20;12=11,12"
"CC(C)C1=CC=CC(C(C)C)=C1[N:62]1[P:11]([H:10])[N:72](C2=C(C(C)C)C=CC=C2C(C)C)[CH:64]=[CH:63]1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1>>CC(C)C1=CC=CC(C(C)C)=C1[N:62]1[P+:11][N:72](C2=C(C(C)C)C=CC=C2C(C)C)[CH:64]=[CH:63]1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH:20]([H:10])[CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1 10,11=10,20"
"C[Si:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C.[C:20](=[S:21])=[S:31]>>C[Si:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C.[H:10][C:20]([S-:21])=[S:31] 10,11=10,20;20,21=21"
"C1=CC=C([Ge:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH:11]=[CH2:10])C=C1.[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C1=CC=C([Ge:63](C2=CC=CC=C2)(C2=CC=CC=C2)[CH2:62][CH+:11][CH2:10][CH:20]2[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1 10,11=10,20"
"C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[O+]#C[Co-3:63]12(C#[O+])(C#[O+])C3[C:62]1([C:11]1=[CH:10]CCCC1)[Co-3:73]32(C#[O+])(C#[O+])C#[O+]>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2CCCC[C+:11]2[C:62]23C4[Co-3:63]2(C#[O+])(C#[O+])(C#[O+])[Co-3:73]43(C#[O+])(C#[O+])C#[O+])[C:41]2=[CH:42][CH:43]=[C:44](OC3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20"
"[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1.[CH2:10]=[N+:11]=[N-:12]>>[CH2:10]([N+:11]#[N:12])[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;12=11,12"
